US06838465B2
2-(Tert-butoxycarbonylamino)-3,3-dimethylbutanoic acid
Triethylainine (3.5 ml, 25.1 mmol) and di-tert-butyl dicarbonate (2.18 g, 9.99 mmol) were added into a DMF (10 ml) suspension of 2-amino-3,3-dimethylbutanoic acid (1.01 g, 7.72 mmol), and the mixture was stirred at room temperature for 15 hours. The mixture was concentrated under reduced pressure, the residue was dissolved in ethyl acetate (50 ml), and the solution was extracted with saturated aqueous sodium bicarbonate solution (50 ml×3). 6 N hydrochloric acid was added to the collected aqueous layer, and the mixture was, after adjustment to pH 3, extracted with chloroform (50 ml×3). The collected chloroform layer was dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure to obtain a colorless oily substance (1.95 g).

reactant | di-tert-butyl dicarbonate | 9.99 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-amino-3,3-dimethylbutanoic acid | 7.72 mmol, 1.01 g | NC(C(=O)O)C(C)(C)C | C6H13NO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(Tert-butoxycarbonylamino)-3,3-dimethylbutanoic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)(C)C | C11H21NO4
